US07696231B2
N-(2-Furylmethyl)-N′-{2-[2-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]-2-oxoethyl}urea
Following the general method as outlined in Example 1, into a suspension of 5-iodo-1H-indole-2,3-dione in acetic acid was added N-(2-furylmethyl)-N′-(2-hydrazino-2-oxoethyl)urea. After stirring at 100° C., the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. overnight gave 71 mg of the title compound (71%) as a yellow solid in 95.6% purity by HPLC (Rt: 4.26, gradient of 10 min, MaxPlot detection between 230 and 400 nm).

reactant | 5-iodo-1H-indole-2,3-dione | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | N-(2-furylmethyl)-N′-(2-hydrazino-2-oxoethyl)urea | O1C(=CC=C1)CNC(=O)NCC(=O)NN | C8H12N4O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-(2-Furylmethyl)-N′-{2-[2-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]-2-oxoethyl}urea | 71 mg, 71% | O1C(=CC=C1)CNC(=O)NCC(=O)NN=C1C(NC2=CC=C(C=C12)I)=O | C16H14IN5O4
